US09034900B2
Step 3: N-(5-bromo-2-fluoro-4-methoxyphenyl)ethanesulfonamide
At 0° C., ethansulfonylchloride (1.4 g, 10.9 mmol) was added dropwise to a solution of 5-bromo-2-fluoro-4-methoxyaniline (3.5 g, 24.0 mmol) in pyridine (1.3 g, 16.4 mmol) and dry CH2Cl2 (20 mL). After stirring at room temperature for 10 h, CH2Cl2 extractive work up and purification by silica gel chromatography (PE:EA=10:0 to 3:1) gave the title compound (2.5 g, 73.5%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.77 (d, J=8.4 Hz, 1H), 6.73 (d, J=11.6 Hz, 1H), 6.27 (s, 1H), 3.89 (s, 3H), 3.10 (q, J=7.6 Hz, 2H), 1.40 (t, J=7.6 Hz, 3H). LCMS: 334.0 (M+Na)+

reactant | ethansulfonylchloride | 10.9 mmol, 1.4 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 5-bromo-2-fluoro-4-methoxyaniline | 24.0 mmol, 3.5 g | BrC=1C(=CC(=C(N)C1)F)OC | C7H7BrFNO
reactant | pyridine | 16.4 mmol, 1.3 g | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-2-fluoro-4-methoxyphenyl)ethanesulfonamide | 2.5 g, 73.5% | BrC=1C(=CC(=C(C1)NS(=O)(=O)CC)F)OC | C9H11BrFNO3S
